US08258160B2
Synthesis of N-benzyl-2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as necessary to replace 1-(2-azidoethyl)-4-fluorobenzene with benzylazide to react with N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 40% yield: mp 108-109° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.93 (s, 1H), 7.49-7.18 (m, 10H), 6.35 (t, J=5.3 Hz, 1H), 5.51 (s, 2H), 4.56 (d, J=5.3 Hz, 2H), 2.65 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.7, 157.9, 156.6, 142.9, 137.8, 133.7, 129.3, 129.1, 128.8, 128.5, 127.8, 127.7, 124.8, 121.5, 54.6, 44.2, 17.2; MS (ES+) m/z 390.3 (M+1).

reactant | 1-(2-azidoethyl)-4-fluorobenzene | N(=[N+]=[N-])CCC1=CC=C(C=C1)F | C8H8FN3
reactant | benzylazide | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C#C)C | C14H12N2OS
product | N-benzyl-2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxamide | 40% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=1N=NN(C1)CC1=CC=CC=C1)C | C21H19N5OS
